US07622494B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)methanesulfonamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and methane sulfonyl chloride to give a tan solid (57% yield). 1H-NMR (CDCl3): δ 8.71 (s, 1H), 7.60 (m, 1H), 7.26 (m, 1H), 7.20 (d, 1H), 4.71A4.59 (m, 2H), 3.07 (s, 3H), 2.67 (m, 2H), 2.22 (m, 1H), 2.00-1.78 (m, 3H); MS m/z 343 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)methanesulfonamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NS(=O)(=O)C | C13H15BrN2O2S
